US06528525B1
(a) Ethyl 3-(4-hydroxy-3-nitrophenyl)-2-phenoxypropionate
Water (2.5 ml), concentrated aqueous hydrogen chloride solution (1.17 ml) and sodium nitrate (297 mg) were added to a solution of ethyl 3-(4-hydroxyphenyl)-2-phenoxypropionate (1.00 g), which is the product of Reference example 4(c), in a mixture of dichloromethane (4.0 ml) and diethyl ether (8.0 ml) at ambient temperature. The mixture was stirred for 2.5 hours at the same temperature and allowed to stand for 14 hours. The reaction mixture was partitioned between ethyl acetate and water. The ethyl acetate layer was separated and washed with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified via chromatography on a silica gel column using hexane/ethyl acetate=4/1 as the eluant to afford the desired compound (935 mg) as a colorless oil.

reactant | Water | 2.5 ml | O | H2O
reactant | hydrogen chloride | 1.17 ml | Cl | ClH
reactant | sodium nitrate | 297 mg | [N+](=O)([O-])[O-].[Na+]
reactant | ethyl 3-(4-hydroxyphenyl)-2-phenoxypropionate | 1.00 g | OC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=CC=C1 | C17H18O4
solvent | dichloromethane | 4.0 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 8.0 ml | C(C)OCC | C4H10O
product | Ethyl 3-(4-hydroxy-3-nitrophenyl)-2-phenoxypropionate | 935 mg | OC1=C(C=C(C=C1)CC(C(=O)OCC)OC1=CC=CC=C1)[N+](=O)[O-] | C17H17NO6
